US06432968B1
7-cyclopropylmethyl-1-(5-hydroxy-5-methylhexyl)-3-methylxanthine (compound no. 12)
The title compound was prepared by using 7-cyclopropylmethyl-3-methylxanthine and 1-chloro-5-hydroxy-5-methylhexane as starting materials.

reactant | 7-cyclopropylmethyl-3-methylxanthine | C1(CC1)CN1C=NC=2N(C(NC(C12)=O)=O)C | C10H12N4O2
reactant | 1-chloro-5-hydroxy-5-methylhexane | ClCCCCC(C)(C)O | C7H15ClO
product | 7-cyclopropylmethyl-1-(5-hydroxy-5-methylhexyl)-3-methylxanthine | C1(CC1)CN1C=NC=2N(C(N(C(C12)=O)CCCCC(C)(C)O)=O)C | C17H26N4O3
